US04528287
1-Ethyl-6,8-difluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid
A mixture of 1.50 g of ethyl 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate, 1.50 g of 2-methylpiperazine and 5 ml of pyridine was heated for 3 hours under reflux. The solvent of the reaction mixture was evaporated and the residue was dissolved in chloroform. The solution was washed with water, dried and evaporated. The residue was recrystallized from a mixture of benzene and isopropyl ether to give 1.00 g of the title compound as colorless needles, M.p. 126.5°-127.5° C.

reactant | ethyl 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.50 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C14H12F3NO3
reactant | 2-methylpiperazine | 1.50 g | CC1NCCNC1 | C5H12N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6,8-difluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid | 1.00 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(NCC1)C)F)=O)C(=O)O | C17H19F2N3O3
